US05654307
A solution of 6-fluoro-3-nitropyridine-2-carboxamide (1.50 g, 8.10 mmol) in EtOAc (80 mL) is hydrogenated over 5% Pd-C (0.30 g) at 60 psi for 2 h. After removal of the catalyst by filtration, the solvent is removed under reduced pressure, to give a residue of crude 3-amino-6-fluoropyridine-2-carboxamide which is used directly in the next step. Triethyl orthoformate (60 mL) is added and the mixture is then heated under reflux with vigorous stirring for 18 h. The cooled mixture is diluted with an equal volume of petroleum ether, and the resulting precipitate collected by filtration and is washed well with petroleum ether to give 6-fluoro-3H-pyrido[3,2-d]pyrimid-4-one (1.26 g, 84%). 1H NMR (DMSO) δ 12.72 (1H, brs), 8.31 (1H, dd, J=8.6, 7.7 Hz), 8.20 (1H, s), 7.66 (1H, dd, J=8.6, 3.0 Hz).

reactant | 6-fluoro-3-nitropyridine-2-carboxamide | 8.10 mmol, 1.50 g | FC1=CC=C(C(=N1)C(=O)N)[N+](=O)[O-] | C6H4FN3O3
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 0.30 g | [Pd] | Pd
product | 3-amino-6-fluoropyridine-2-carboxamide | NC=1C(=NC(=CC1)F)C(=O)N | C6H6FN3O
